US07396833B2
6-(4-Hydroxytetrahydropyran-4-yl)-1H-indazole-3-carboxylic acid tert-butyl ester (0.86 mmol) was dissolved in trifluoroacetic acid (3 mL) and the mixture was maintained at room temperature for 16 h. The solvent was removed in vacuo and the residue was triturated with ethyl acetate to provide 6-(3,6-dihydro-2H-pyran-4-yl)-1H-indazole-3-carboxylic acid (76%). The acid was coupled with the bicyclobase according to procedure A.

reactant | 6-(4-Hydroxytetrahydropyran-4-yl)-1H-indazole-3-carboxylic acid tert-butyl ester | 0.86 mmol | C(C)(C)(C)OC(=O)C1=NNC2=CC(=CC=C12)C1(CCOCC1)O | C17H22N2O4
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 6-(3,6-dihydro-2H-pyran-4-yl)-1H-indazole-3-carboxylic acid | 76% | O1CCC(=CC1)C1=CC=C2C(=NNC2=C1)C(=O)O | C13H12N2O3
